** sch_path: QDLL6501-main/schematic/xschem/RES.sch
.subckt RES ROUT RIN VSS
*.ipin RIN
*.opin ROUT
*.iopin VSS
XR13 net1 RIN VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR1 net2 net1 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR2 net3 net2 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR3 net4 net3 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR4 net5 net4 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR5 net6 net5 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR6 net7 net6 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR7 net8 net7 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR8 net9 net8 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR9 net10 net9 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR10 net11 net10 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
XR11 ROUT net11 VSS rppd w=1e-6 l=10e-6 m=1 b=0 mm_ok=1
.ends
.end
